US07626030B2
Step (b) Preparation of 5-(6,7-dimethoxyquinolin-4-yloxy)benzofuran-2-carboxylic acid
To a stirred solution of 5-hydroxybenzofuran-2-carboxylic acid (Step a, 2.00 g, 11.23 mmol) in DMSO (23 mL) at RT was added cesium carbonate (11.0 g, 33.7 mmol). The reaction was stirred for 10 min followed by the addition of 4-chloro-6,7-dimethoxyquinoline (prepared by the method described in WO 03/33472) (1.75 g, 7.86 mmol). The reaction was stirred at 100° C. for 16 h. After cooling to RT, water was added. The aqueous layer was acidified with a 6M aqueous hydrochloric acid solution until pH=5, filtered and the solid was suspended in EtOAc. The organic phase was extracted with a 3M sodium hydroxide aqueous solution. After acidification of the aqueous layer, the title compound was isolated by filtration and dried under high vacuum.

reactant | 5-hydroxybenzofuran-2-carboxylic acid | OC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H6O4
reactant | cesium carbonate | 33.7 mmol, 11.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-chloro-6,7-dimethoxyquinoline | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | DMSO | 23 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-(6,7-dimethoxyquinolin-4-yloxy)benzofuran-2-carboxylic acid | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C20H15NO6
